US04018794
By replacing in Example 1, step C, 4-benzoyl-3-n-butoxy-5-nitrobenzoic acid with 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid, and following the procedure described, 5-amino-4-benzoyl-3-benzyloxybenzoic acid is obtained with a melting point of 216.5°-217.5° C.

reactant | 4-benzoyl-3-n-butoxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCCCC | C18H17NO6
reactant | 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCC1=CC=CC=C1 | C21H15NO6
product | 5-amino-4-benzoyl-3-benzyloxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCC1=CC=CC=C1)C(C1=CC=CC=C1)=O | C21H17NO4
